US08957205B2
N-[[1-[[(2-Furanylmethoxy)carbonyl]amino]cyclohexyl]carbonyl]-L-valinol
2.00 g (7.48 mmol) of 1-[[(2-furanylmethoxy)carbonyl]amino]cyclohexanecarboxylic acid was used instead of 2-benzothiophenecarboxylic acid and 772 mg (7.48 mmol) of L-valinol was used instead of 1-aminocyclohexanecarboxylic acid phenylmethyl ester in the process according to Reference example 188 to obtain 2.64 g (quantitative) of the title compound.

reactant | 1-[[(2-furanylmethoxy)carbonyl]amino]cyclohexanecarboxylic acid | 7.48 mmol, 2.00 g | O1C(=CC=C1)COC(=O)NC1(CCCCC1)C(=O)O | C13H17NO5
reactant | L-valinol | 7.48 mmol, 772 mg | N[C@@H](C(C)C)CO | C5H13NO
product | N-[[1-[[(2-Furanylmethoxy)carbonyl]amino]cyclohexyl]carbonyl]-L-valinol | O1C(=CC=C1)COC(=O)NC1(CCCCC1)C(=O)N[C@@H](C(C)C)CO | C18H28N2O5
